US09422271B2
A mixture of crude 2-(5-(N-tert-butylsulfamoyl)thiophen-2-yl)-6 cyclopropylpyrimidin-4-yl trifluoromethanesulfonate 220 mg, 0.41 mmol, 1.0 equiv.), tert-butyl 5-amino-3-cyclopropyl-1H-pyrazole-1-carboxylate (138 mg, 0.62 mmol, 1.2 equiv.), Ph3P (33 mg, 0.12 mmol, 0.3 equiv.), Ph(Ph3P)4 (47 mg, 0.041 mmol, 0.1 equiv.) and K2CO3 (170 mg, 1.23 mmol, 3 equiv.) in dioxane (5 mL) was stirred at 100° C. for 3 h. The mixture was extracted with EtOAc. The combined organic phase was washed (brine), dried (Na2SO4), filtered and concentrated to give a residue, which was purified by silica gel column chromatography (PE/EtOAc/MeOH=1:1:0.1) to provide N-tert-butyl-5-(4-cyclopropyl-6-(3-cyclopropyl-1H-pyrazol-5-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (50 mg, 27%) as a white solid. LC-MS (m/z)=459.1 [M+H]+

reactant | 2-(5-(N-tert-butylsulfamoyl)thiophen-2-yl)-6 cyclopropylpyrimidin-4-yl trifluoromethanesulfonate | 0.41 mmol, 220 mg, 1.0 equiv. | FC(S(=O)(=O)OC1=NC(=NC(=C1)C1CC1)C=1SC(=CC1)S(NC(C)(C)C)(=O)=O)(F)F | C16H18F3N3O5S3
reactant | tert-butyl 5-amino-3-cyclopropyl-1H-pyrazole-1-carboxylate | 0.62 mmol, 138 mg, 1.2 equiv. | NC1=CC(=NN1C(=O)OC(C)(C)C)C1CC1 | C11H17N3O2
reactant | Ph3P | 0.12 mmol, 33 mg, 0.3 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 1.23 mmol, 170 mg, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-tert-butyl-5-(4-cyclopropyl-6-(3-cyclopropyl-1H-pyrazol-5-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide | 50 mg, 27% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC(=CC(=N1)C1CC1)NC1=CC(=NN1)C1CC1 | C21H26N6O2S2
